US09216980B2
Step 3: 6-Methoxy-4-iodopyridin-3-amine
A solution of (6-methoxy-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester (18 g, 51 mmol) in DCM (50 mL) and TFA (50 mL) was stirred at ambient temperature for 1 h and then evaporated in vacuo. The resultant residue was treated with saturated aqueous sodium hydrogen carbonate solution (25 mL), diluted with water (100 mL) and extracted into ethyl acetate (2×100 mL). The organic layer was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford the title compound as a brown foam (10 g, 60%).

reactant | (6-methoxy-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester | 51 mmol, 18 g | C(C)(C)(C)OC(NC=1C=NC(=CC1I)OC)=O | C11H15IN2O3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-Methoxy-4-iodopyridin-3-amine | 10 g, 60% | COC1=CC(=C(C=N1)N)I | C6H7IN2O
